US05064847
3-(4-Chlorophenyl)-5-difluoromethoxyisoxazole
In a 100 ml autoclave, 5.87 g (0.03 mol) 3-(4-chlorophenyl)-5-(4H)-isoxazolone was dissolved 30 ml dioxane and treated with 10 ml of 30% aqueous potassium hydroxide. The autoclave was pressurised to 10 bar with chlorodifluoromethane and the reaction mixture was heated at 50°-60° C. for 15 hours. After cooling and reducing the pressure the solution was poured into 300 ml ice/water and extracted three times with 70 ml ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. The residue was purified by column chromatography.

reactant | 3-(4-chlorophenyl)-5-(4H)-isoxazolone | 0.03 mol, 5.87 g | ClC1=CC=C(C=C1)C1=NOC(C1)=O | C9H6ClNO2
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Chlorophenyl)-5-difluoromethoxyisoxazole | ClC1=CC=C(C=C1)C1=NOC(=C1)OC(F)F | C10H6ClF2NO2
